US05149853
5.47 g (30 mmol) of (3-dimethylarsinopropyl)chloride are added to 1.44 g (60 mmol) of magnesium chips in 100 ml of diethylether at 20° C., and then the mixture is heated under reflux for two hours. The solution is allowed to come to room temperature, 4.0 g (30 mmol) of dimethylgallium chloride is 50 ml of diethylether are added, and the solution is refluxed again for two hours. The working up is carried out analogously to Example 1. (3-Dimethylarsinopropyl)-dimethylgallium is obtained as a clear liquid with a B.p. of 86° C./0.01 mbar.

reactant | (3-dimethylarsinopropyl)chloride | 30 mmol, 5.47 g | C[As](CCCCl)C | C5H12AsCl
reactant | magnesium | 60 mmol, 1.44 g | [Mg] | Mg
reactant | dimethylgallium chloride | 30 mmol, 4.0 g | [Cl-].C[Ga+]C
solvent | diethylether | 100 ml | C(C)OCC | C4H10O
solvent | diethylether | 50 ml | C(C)OCC | C4H10O
product | (3-Dimethylarsinopropyl)-dimethylgallium | C[As](CCC[Ga](C)C)C | InChI=1S/C5H12As.2CH3.Ga/c1-4-5-6(2)3;;;/h1,4-5H2,2-3H3;2*1H3;
